US04289763
A solution of 250 mg of 6α,9-dichloro-11β,21-dihydroxy-16α-methyl-1,4-pregnadiene-3,20-dione in 5 ml of pyridine is stirred, after adding 2.5 ml of valeric anhydride, for 15 hours at room temperature. The working-up procedure set forth in Example 4 is followed. After recrystallization from acetone-diisopropyl ether, 165 mg of 6α,9-dichloro-11β-hydroxy-16α-methyl-21-valeryloxy-1,4-pregnadiene-3,20-dione is obtained, m.p. 218° C. [α]D25 =+113° (chloroform).

reactant | 6α,9-dichloro-11β,21-dihydroxy-16α-methyl-1,4-pregnadiene-3,20-dione | 250 mg | Cl[C@H]1C[C@H]2[C@@H]3C[C@H]([C@H](C(CO)=O)[C@]3(C[C@@H]([C@@]2([C@]2(C=CC(C=C12)=O)C)Cl)O)C)C | C22H28Cl2O4
reactant | valeric anhydride | 2.5 ml | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6α,9-dichloro-11β-hydroxy-16α-methyl-21-valeryloxy-1,4-pregnadiene-3,20-dione | 165 mg | Cl[C@H]1C[C@H]2[C@@H]3C[C@H]([C@H](C(COC(CCCC)=O)=O)[C@]3(C[C@@H]([C@@]2([C@]2(C=CC(C=C12)=O)C)Cl)O)C)C | C27H36Cl2O5
